US05240943
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]1,2,3,4-tetrahydro-2-naphthalene carboxamide
To a stirred solution of 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (176 mg, 1 mmol) and triethylamine (0.25 ml) in methylene chloride (5 ml), isobutylchloroformate (136 mg, 1 mmol) was added. After 5 minutes N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine (260 mg, 1 mmol) in methylene chloride was added and the reaction mixture was stirred at room temperature for 16 h. The reaction mixture was quenched with 2N potassium hydroxide solution. The organic layer was separated, washed with distilled water and dried (Na2SO4). Evaporation of the solvent gave a white solid which was crystallized from diethyl ether to afford the title compound (140 mg, 33%), m.p.=130-2°, Anal C27H34N2O2.0.25 H2O, Calc, C, 76.65; H, 8.22, N, 6.62; Found C,76.34; H, 8.32; N, 6.59.

reactant | 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 1 mmol, 176 mg | C1C(CCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 1 mmol, 136 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine | 1 mmol, 260 mg | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)N | C16H24N2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]1,2,3,4-tetrahydro-2-naphthalene carboxamide | 140 mg, 33% | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)NC(=O)C2CC1=CC=CC=C1CC2 | C27H34N2O2
